US05840911
1-[4-(N-Hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-methoxvphenyl)-imidazole dihydrochloride
7.2 ml of 32% hydrochloric acid (Merck, Darmstadt, Germany; p.a.) are added, with stirring, to a mixture of 4.92 g (0.024 mol) of 4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-one oxime, 4.9 g (0.024 mol) of 1,2-diamino-4-(4-methoxyphenyl)-imidazole (see Hetzheim A. et al., Chem. Ber. 100, 3418 (1967)) and 120 ml of isopropanol, and the reaction mixture is stirred at 80° C. for 19 hours. The reaction mixture is filtered while hot and the filtrate is cooled. The pale-yellow title product that has crystallised out is filtered off with suction and dried. It crystallizes in the form of the monohydrate, m.p. >220° C., MS (FAB): (M+H)+ =377, 1H-NMR (DMSO/D2O): δ=8.23 (d, 1H); 7.74 (s, 1H); 7.72 (d, 1H); 7.57-7.63 (m, 3H); 7.02 (d, 2H); 3.75 (s, 3H), 3.26 (s, 4H).

reactant | hydrochloric acid | 7.2 ml | Cl | ClH
reactant | 4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-one oxime | 0.024 mol, 4.92 g | ONC(=N)C1=C2CCC(C2=CC=C1)=NO | C10H11N3O2
reactant | 1,2-diamino-4-(4-methoxyphenyl)-imidazole | 0.024 mol, 4.9 g | NN1C(=NC(=C1)C1=CC=C(C=C1)OC)N | C10H12N4O
solvent | isopropanol | 120 ml | C(C)(C)O | C3H8O
product | 1-[4-(N-Hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-methoxvphenyl)-imidazole dihydrochloride | Cl.Cl.ONC(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC=C(C=C1)OC)N | InChI=1S/C20H20N6O2.2ClH/c1-28-13-7-5-12(6-8-13)18-11-26(20(22)23-18)24-17-10-9-14-15(17)3-2-4-16(14)19(21)25-27;;/h2-8,11,27H,9-10H2,1H3,(H2,21,25)(H2,22,23);2*1H
